US07320994B2
{4-Amino-2-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-pyridin-3-yl}-(2-chloro-phenyl)-methanone
Stir a mixture of 4-[1-(3,5-bistrifluoromethylbenzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-3-(2-chlorophenyl)-isoxazolo[4,3-c]pyridine (350 g, 0.583 mol) and 5% Pt—C (35 g) in ethyl acetate (3.5 L) under a H2 (˜5 psi) atmosphere for 20 hours. Filter through hyflo, wash with ethyl acetate (3.5 L) and concentrate to a solid. Dissolve in ethyl acetate (7 L) and add Darco® (600 g). Stir for 2 hours then filter through hyflo. Rinse filter cake with ethyl acetate (3.5 L) and concentrate filtrates to give the title compound. Exact Mass 601.1: mass spectrum (IS): m/z=602.0 (M+1); 1H NMR (250 MHz, CDCl3) 8.0 (d, J=6.0 Hz, 1H), 7.23 (s, 1H), 7.45-7.29 (m, 5H), 7.22 (m, 1H), 7.13-7.03 (m, 2H), 6.96 (m, 1H), 6.90-6.80 (m, 2H), 6.48 (d, J=6.0 Hz, 1H), 7.79 (bs, 2H), 5.31 (s, 2H).

reactant | 4-[1-(3,5-bistrifluoromethylbenzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-3-(2-chlorophenyl)-isoxazolo[4,3-c]pyridine | 0.583 mol, 350 g | FC(C=1C=C(CN2N=NC(=C2C2=CC=CC=C2)C2=NC=CC=3C2=C(ON3)C3=C(C=CC=C3)Cl)C=C(C1)C(F)(F)F)(F)F | C29H16ClF6N5O
solvent | ethyl acetate | 3.5 L | C(C)(=O)OCC | C4H8O2
catalyst | Pt—C | 35 g | [Pt] | Pt
product | {4-Amino-2-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-pyridin-3-yl}-(2-chloro-phenyl)-methanone | NC1=C(C(=NC=C1)C=1N=NN(C1C1=CC=CC=C1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(=O)C1=C(C=CC=C1)Cl | C29H18ClF6N5O
